US07872009B2
Step 1: Methyl 6-(cyclopentyloxy)-5-(pyridin-4-yl)nicotinate
Methyl 5-bromo-6-(cyclopentyloxy)-1,6-dihydropyridine-3-carboxylate (2.50 g, 7.94 mmol) was dissolved in DME (10 mL) and pyridin-4-ylboronic acid (813 mg, 6.61 mmol), DPPF-PdCl2 (108 mg, 0.13 mmol, Strem) and water (0.5 mL, 28 mmol) were added. The mixture was stirred at 40° C. for 4 h. The reaction mixture was cooled to RT, diluted with H1O and extracted 3× with EtOAc. The combined organic extracts were washed 1× with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude residue was purified by silica gel chromatography (40 g pre-packed column, elution 0-30% EtOAc:hexanes) to give the title compound (608 mg, 31%). MS m/z: 299 (M+1).

reactant | Methyl 5-bromo-6-(cyclopentyloxy)-1,6-dihydropyridine-3-carboxylate | 7.94 mmol, 2.50 g | BrC1=CC(=CNC1OC1CCCC1)C(=O)OC | C12H16BrNO3
reactant | pyridin-4-ylboronic acid | 6.61 mmol, 813 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | water | 28 mmol, 0.5 mL | O | H2O
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | DPPF PdCl2 | 0.13 mmol, 108 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2].Cl[Pd]Cl
product | Methyl 6-(cyclopentyloxy)-5-(pyridin-4-yl)nicotinate | 608 mg, 31% | C1(CCCC1)OC1=NC=C(C(=O)OC)C=C1C1=CC=NC=C1 | C17H18N2O3
